US07642355B2
Biphenyl-2-ylcarbamic Acid 1-(2-{5-[4-(3-dimethylaminopropoxy)benzylamino]pentylcarbamoyl}ethyl)piperidin-4-yl Ester
Biphenyl-2-ylcarbamic acid 1-[2-(5-aminopentylcarbamoyl)ethyl]piperidin-4-yl ester (45.2 mg, 0.1 mmol; prepared as described in Preparation 4) was dissolved in 1 mL of MeOH. To the solution was added [4-(3-dimethylaminopropoxy)phenyl]acetaldehyde (0.1 mmol) at room temperature. The reaction was stirred at room temperature for 30 minutes before it was treated with Na(OAc)3BH (64 mg, 0.3 mmol). Stirring was continued for an additional 1 hour. The reaction mixture was concentrated, then dissolved in 1 mL of 1:1 HOAc/H2O solution and purified on reverse phase HPLC. The title compound was obtained as a tri(trifluoroacetate) salt. MS m/z: [M+H+] calcd for C38H53N5O4, 644.42; found, 644.3.

reactant | Biphenyl-2-ylcarbamic acid 1-[2-(5-aminopentylcarbamoyl)ethyl]piperidin-4-yl ester | 0.1 mmol, 45.2 mg | NCCCCCNC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C26H36N4O3
reactant | [4-(3-dimethylaminopropoxy)phenyl]acetaldehyde | 0.1 mmol | CN(CCCOC1=CC=C(C=C1)CC=O)C | C13H19NO2
reactant | Na(OAc)3BH | 0.3 mmol, 64 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-(2-{5-[4-(3-dimethylaminopropoxy)benzylamino]pentylcarbamoyl}ethyl)piperidin-4-yl Ester | CN(CCCOC1=CC=C(CNCCCCCNC(=O)CCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1)C | C38H53N5O4
